US07498337B2
N-methyl-1-{1-[(5-methylpyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine dihydrochloride
Under an argon atmosphere, a mixture of tert-butyl ({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate (112 mg), methylboronic acid (18 mg), tetrakis(triphenylphosphine)palladium (23 mg), potassium carbonate (138 mg) and 1,4-dioxane (5 mL) was stirred at 80° C. for one day. The reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give an oil. The oil was dissolved in ethanol (1 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added. After stirring at room temperature for 1 hr, the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol-ethyl acetate to give the title compound as a colorless solid (yield 32.6 mg, 39%).

reactant | tert-butyl ({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate | 112 mg | BrC=1C=C(C=NC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C22H24BrN3O4S
reactant | methylboronic acid | 18 mg | CB(O)O | CH5BO2
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 1 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-methyl-1-{1-[(5-methylpyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine dihydrochloride | yield 32.6 mg, 39% | Cl.Cl.CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=C(C1)C | InChI=1S/C18H19N3O2S.2ClH/c1-14-8-17(12-20-10-14)24(22,23)21-13-15(11-19-2)9-18(21)16-6-4-3-5-7-16;;/h3-10,12-13,19H,11H2,1-2H3;2*1H
